US08461134B2
The crude N-(3-bromophenyl)-2,2,2-trifluoroacetamide was cooled to 0° C., then chlorosulfonic acid was added dropwise at 0° C. over 10 min. The r×n mix was stirred at 0° C. to rt overnight. LC/MS monitored the r×n. The r×n mix poured into ice-H2O (100 g) to quench the r×n. The sticky gum was washed with H2O and dried in vacuum to give the crude 2-bromo-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride.

reactant | N-(3-bromophenyl)-2,2,2-trifluoroacetamide | BrC=1C=C(C=CC1)NC(C(F)(F)F)=O | C8H5BrF3NO
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
product | 2-bromo-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride | BrC1=C(C=CC(=C1)NC(C(F)(F)F)=O)S(=O)(=O)Cl | C8H4BrClF3NO3S
